US09233098B2
2. Preparation of 2-(1H-indazol-3-yl)acetic acid
3-Amino-3-(2-nitrophenyl) propionic acid (15 g, 71.4 mmol) was dissolved in a mixed solution of 5% sodium hydroxide solution (85 mL) and 85% hydrazine hydrate (5 mL). The reaction was heated to 80° C., and then Raney nickel (2×25 mg) was added carefully. After reacted for half an hour, it was cooled, adjusted to pH≈2 with 6 N hydrochloric acid. A solid precipitated was pumping filtered, dried in vacuum to obtain a yellow solid 6.86 g, at a yield of 54.5%.

reactant | 3-Amino-3-(2-nitrophenyl) propionic acid | 71.4 mmol, 15 g | NC(CC(=O)O)C1=C(C=CC=C1)[N+](=O)[O-] | C9H10N2O4
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium hydroxide | 85 mL | [OH-].[Na+]
solvent | hydrazine hydrate | 5 mL | O.NN
catalyst | Raney nickel | 25 mg | [Ni] | Ni
product | 2-(1H-indazol-3-yl)acetic acid | 6.86 g, yield of 54.5% | N1N=C(C2=CC=CC=C12)CC(=O)O | C9H8N2O2
